US07446222B2
Ethyl 6-(5′-chloro-2′-{[(4-fluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate
A mixture of ethyl 6-(5′-chloro-2′-hydroxy-2-biphenylyl)-2-pyridinecarboxylate (177 mg, 0.5 mmol), potassium carbonate (138 mg, 1 mmol) and 4-fluorobenzyl bromide (104 mg, 0.55 mmol) in acetone (4 ml) was stirred and refluxed for 2 hours then cooled, filtered, evaporated and chromatographed on silica eluting with ethyl acetate/iso-hexane (1:9) to give 190 mg of white solid. LC/MS t=3.79, [MH+] 462.3

reactant | ethyl 6-(5′-chloro-2′-hydroxy-2-biphenylyl)-2-pyridinecarboxylate | 0.5 mmol, 177 mg | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)O | C20H16ClNO3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 0.55 mmol, 104 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | Ethyl 6-(5′-chloro-2′-{[(4-fluorophenyl)methyl]oxy}-2-biphenylyl)-2-pyridinecarboxylate | 190 mg | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)OCC1=CC=C(C=C1)F | C27H21ClFNO3
